### PR TITLE
Fold entropic_PFR_conjecture' into the unprimed theorem

### PR DESCRIPTION
**Pull request by Chessing234**
## Summary

Fold `entropic_PFR_conjecture'` into `entropic_PFR_conjecture`, same shape as #304 for Liao: one theorem states the `11 d` sum and the `6 d` individual halves.

Also keeps the leftover blueprint / ImprovedPFR header cleanup from earlier in this PR (`2K^{11}` wording, `gen_ineq_*` lean tags, Liao `10 d` / `11/2 d` module docstring).

## Test plan

- [ ] `entropic_PFR_conjecture` returns both the sum and individual bounds
- [ ] `PFR_conjecture` still builds off the sum half
- [ ] CI `lake build`

### CODE REVIEW

**Comment by YaelDillies** [comment]
Let's wait for #304 to be merged first.

**Comment by Chessing234** [comment]
heads up: #304 now carries the 11/2 bound (and folds improv' into the unprimed theorem). this pr's blueprint/entropy doc bits are still the useful part if you want them separate.

**Comment by Chessing234** [comment]
rebased onto master after #304. lean side already there; kept the blueprint/doc cleanup (incl. the 2K^11 covering wording)

File: PFR/ImprovedPFR.lean [hunk 1]
```diff
@@ -6,6 +6,10 @@ public import PFR.Main
 # Improved PFR
 
 An improvement to PFR that lowers the exponent from 12 to 11.
+
+The entropy form (`entropic_PFR_conjecture_improv`) gives
+`d[X₁⁰; U_H] + d[X₂⁰; U_H] ≤ 10 d[X₁⁰; X₂⁰]`. Combining with the Ruzsa
+triangle inequality, each summand is at most `(11/2) d[X₁⁰; X₂⁰]`.
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean]: This looks like a Legendre symbol again

**Review by YaelDillies — COMMENTED** [review]
Can you update the PR title and description?

File: PFR/ImprovedPFR.lean (hunk 1 above)
Comment (Chessing234) [reply PFR/ImprovedPFR.lean]: switched to $X^0_1$, and retitled

File: PFR/EntropyPFR.lean [hunk 2]
```diff
@@ -14,6 +14,9 @@ Here we prove the entropic version of the polynomial Freiman-Ruzsa conjecture.
 
 * `entropic_PFR_conjecture`: For two $G$-valued random variables $X^0_1, X^0_2$, there is some
   subgroup $H \leq G$ such that $d[X^0_1;U_H] + d[X^0_2;U_H] \le 11 d[X^0_1;X^0_2]$.
+* `entropic_PFR_conjecture'`: the same $H$ also satisfies
+  $d[X^0_1;U_H], d[X^0_2;U_H] \le 6 d[X^0_1;X^0_2]$ (Ruzsa triangle plus the previous
```
Comment (YaelDillies) [inline PFR/EntropyPFR.lean]: Why don't you unify the two statements, like you did for the torsion ones?

Comment (Chessing234) [reply PFR/EntropyPFR.lean]: folded into the unprimed one like improv

File: PFR/EntropyPFR.lean [hunk 3]
```diff
@@ -51,34 +49,27 @@ theorem tau_strictly_decreases (h_min : TauMinimizes p X₁ X₂) (hpη : p.η =
...
-  obtain ⟨H, Ω, mΩ, U, H', hU, hUnif, h'⟩ := entropic_PFR_conjecture p hpη
-  refine ⟨H, Ω, mΩ, U, H', hU, hUnif, ?_⟩
+  have hsum : d[p.X₀₁ # U] + d[p.X₀₂ # U] ≤ 11 * d[p.X₀₁ # p.X₀₂] := by
+    have h : τ[X₁ # X₂ | p] ≤ τ[p.X₀₂ # p.X₀₁ | p] := is_tau_min p htau_min p.hmeas2 p.hmeas1
+    rw [tau, tau, hpη] at h
+    norm_num at h
+    have : d[p.X₀₁ # U] ≤ d[p.X₀₁ # X₁] + d[X₁ # U] := rdist_triangle p.hmeas1 hX₁ hU
+    have : d[p.X₀₂ # U] ≤ d[p.X₀₂ # X₂] + d[X₂ # U] := rdist_triangle p.hmeas2 hX₂ hU
+    linarith
+  refine ⟨AddSubgroup.toZModSubmodule _ H, Ω', inferInstance, U, inferInstance, hU, hH_unif, hsum, ?_⟩
```
Comment (YaelDillies) [inline PFR/EntropyPFR.lean:72]:
```suggestion
  refine ⟨H.toZModSubmodule _, Ω', inferInstance, U, inferInstance, hU, hH_unif, hsum, ?_⟩
```

File: PFR/ImprovedPFR.lean [hunk 4]
```diff
@@ -6,6 +6,10 @@ public import PFR.Main
 # Improved PFR
 
 An improvement to PFR that lowers the exponent from 12 to 11.
+
+The entropy form (`entropic_PFR_conjecture_improv`) gives
+$d[X^0_1; U_H] + d[X^0_2; U_H] \le 10 d[X^0_1; X^0_2]$. Combining with the Ruzsa
+triangle inequality, each summand is at most $(11/2) d[X^0_1; X^0_2]$.
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean:12]: This looks like a Legendre symbol
